US07589206B2
7-(3,5-Difluoro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid tert-butylamide
Prepared in a similar manner to Example 4(d) from 4-tert-butylcarbamoyl-7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1-carboxylic acid ter-butyl ester (68 mg) and using 3,5-difluoroaniline (38 ul) instead of 3-bromoaniline. Isolated by MDAP rather than trituration with diethyl ether to give the title compound (28 mg).

reactant | 4-tert-butylcarbamoyl-7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1-carboxylic acid ter-butyl ester | 68 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(NC(C)(C)C)=O)Cl)C | C18H24ClN3O3
reactant | 3,5-difluoroaniline | 38 ul | FC=1C=C(N)C=C(C1)F | C6H5F2N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-(3,5-Difluoro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid tert-butylamide | 28 mg | C(C)(C)(C)NC(=O)C=1C2=C(C(=NC1)NC1=CC(=CC(=C1)F)F)NC=C2C | C19H20F2N4O
